US08202866B2
(E)-2-{4-[2-(-tert-Butoxycarbonylamino-phenylcarbamoyl)-vinyl]-phenyl}-5-chloro-pentanoic acid
To a solution of (E)-2-{4-[2-(2-tert-butoxycarbonylamino-phenylcarbamoyl)-vinyl]-phenyl}-5-chloro-pentanoic acid methyl ester (48.7 mg, 10 mmol) in MeOH/H2O (4:1) (2 mL), LiOH (24 mg, 100 mmol) was added. After the solution was stirred at room temperature for 5 h, the solution was neutralized with 2N HCl to pH 5-6. The mixture was evaporated to dryness under reduced pressure, then EtOAc (10 mL) was added. The organic layer was washed with brine, dried with Na2SO4, filtered, and evaporated to obtain of a yellow solid product without further purification. MS: calc'd 473 (MH+), exp 473 (MH+). 1H NMR (400 MHz, DMSO-d6) 12.50 (s, 1H), 9.73 (s, 1H), 8.50 (s, 1H), 6.89-7.64 (m, 10H), 3.61 (m, 3H), 1.55-2.10 (m, 4H), 1.46 (s, 9H).

reactant | (E)-2-{4-[2-(2-tert-butoxycarbonylamino-phenylcarbamoyl)-vinyl]-phenyl}-5-chloro-pentanoic acid methyl ester | 10 mmol, 48.7 mg | COC(C(CCCCl)C1=CC=C(C=C1)\C=C\C(NC1=C(C=CC=C1)NC(=O)OC(C)(C)C)=O)=O | C26H31ClN2O5
reactant | LiOH | 100 mmol, 24 mg | [Li+].[OH-]
reactant | HCl | 2N | Cl | ClH
solvent | MeOH H2O | 2 mL | CO.O
product | (E)-2-{4-[2-(-tert-Butoxycarbonylamino-phenylcarbamoyl)-vinyl]-phenyl}-5-chloro-pentanoic acid | C(C)(C)(C)OC(=O)NN(C(=O)/C=C/C1=CC=C(C=C1)C(C(=O)O)CCCCl)C1=CC=CC=C1 | C25H29ClN2O5
